US09278968B2
To a solution of 184 mg of (R)—N-[(1S)-2-{[tert-butyl (dimethyl)silyl]oxy}-1-(5-methyl-1,3-thiazol-2-yl)ethyl]-2-methylpropane-2-sulfinamide in 2 ml of methanol was added 2 ml of a 4 M hydrogen chloride/1,4-dioxane solution, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and 1 M hydrochloric acid was added thereto, followed by washing with ethyl acetate. The aqueous layer was concentrated under reduced pressure to obtain 112 mg of (2S)-2-amino-2-(5-methyl-1,3-thiazol-2-yl)ethanol hydrochloride.

reactant | (R)—N-[(1S)-2-{[tert-butyl (dimethyl)silyl]oxy}-1-(5-methyl-1,3-thiazol-2-yl)ethyl]-2-methylpropane-2-sulfinamide | 184 mg | C(C)(C)(C)[Si](OC[C@@H](C=1SC(=CN1)C)N[S@](=O)C(C)(C)C)(C)C | C16H32N2O2S2Si
reactant | hydrogen chloride 1,4-dioxane | 4 M | Cl.O1CCOCC1
solvent | methanol | 2 ml | CO | CH4O
product | (2S)-2-amino-2-(5-methyl-1,3-thiazol-2-yl)ethanol hydrochloride | 112 mg | Cl.N[C@@H](CO)C=1SC(=CN1)C | InChI=1S/C6H10N2OS.ClH/c1-4-2-8-6(10-4)5(7)3-9;/h2,5,9H,3,7H2,1H3;1H/t5-;/m0./s1
